US04772614
In a similar manner to that described in Example 12(a), N,N-dimethylmethanesulphonamide was reacted with n-butyl lithium and the product reacted with methyl 4-fluoro-2-methylaminobenzoate to give the novel compound 1-(4-fluoro-2-methylaminophenyl)-2-(N,N-dimethylsulphamoyl)ethanone, m.p. 120°-124°.

reactant | N,N-dimethylmethanesulphonamide | CN(S(=O)(=O)C)C | C3H9NO2S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl 4-fluoro-2-methylaminobenzoate | FC1=CC(=C(C(=O)OC)C=C1)NC | C9H10FNO2
product | 1-(4-fluoro-2-methylaminophenyl)-2-(N,N-dimethylsulphamoyl)ethanone | FC1=CC(=C(C=C1)C(CS(N(C)C)(=O)=O)=O)NC | C11H15FN2O3S
